US07816405B2
Methyl (2S)-3-(3-hydroxyphenyl)-2-isopropoxypropionate
Methyl (2S)-3-(3-pivaloyloxyphenyl)-2-isopropoxypropionate (12.1 kg, 37.5 mol) was dissolved in methanol (49 L) and then cooled, followed by adding dropwise concentrated sulfuric acid (3 L) to the reaction mixture at an internal temperature of 8.8° C. After stirring the reaction mixture at 60° C. for 19 hours, toluene (121 L) and water (61 L) were added to the mixture for separating. The aqueous layer was again extracted with toluene (121 L). The organic layers were then combined. The resultant organic layer was washed with a 5% sodium bicarbonate aqueous solution (57 L) and with water (61 L) and then dried with anhydrous magnesium sulfate, followed by vacuum concentration to obtain 8.81 kg of the title compound in the form of oily matter (yield: 99%).

reactant | Methyl (2S)-3-(3-pivaloyloxyphenyl)-2-isopropoxypropionate | 37.5 mol, 12.1 kg | C(C(C)(C)C)(=O)OC=1C=C(C=CC1)C[C@@H](C(=O)OC)OC(C)C | C18H26O5
reactant | sulfuric acid | 3 L | S(O)(O)(=O)=O | H2O4S
reactant | toluene | 121 L | C1(=CC=CC=C1)C | C7H8
reactant | water | 61 L | O | H2O
solvent | methanol | 49 L | CO | CH4O
product | Methyl (2S)-3-(3-hydroxyphenyl)-2-isopropoxypropionate | 8.81 kg, yield: 99% | OC=1C=C(C=CC1)C[C@@H](C(=O)OC)OC(C)C | C13H18O4
